US09079888B2
Step (iii): Preparation of N-[4-(1-Cyclobutyl piperidin-4-yloxy)-2-fluoro phenyl]-2-(morpholin-4-yl)acetamide dihydrochloride
Methanolic hydrochloride (2.08 ml, 0.009 moles, 15% w/v) was added to a stirred solution of N-[4-(1-Cyclobutyl piperidin-4-yloxy)-2-fluoro phenyl]-2-(morpholin-4-yl) acetamide (1.52 g, 0.004 moles) in diethyl ether (5 vol) and the reaction mass was further stirred for 2-3 hours at room temperature. The solvent was decanted; the resulting solids were washed with ether (2×10 mL) and dried under reduced pressure to obtain the title compound 1.6 g (Yield: 86.2%).

reactant | hydrochloride | 0.009 moles, 2.08 ml | Cl | ClH
reactant | N-[4-(1-Cyclobutyl piperidin-4-yloxy)-2-fluoro phenyl]-2-(morpholin-4-yl) acetamide | 0.004 moles, 1.52 g | C1(CCC1)N1CCC(CC1)OC1=CC(=C(C=C1)NC(CN1CCOCC1)=O)F | C21H30FN3O3
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[4-(1-Cyclobutyl piperidin-4-yloxy)-2-fluoro phenyl]-2-(morpholin-4-yl)acetamide dihydrochloride | 1.6 g, Yield: 86.2% | Cl.Cl.C1(CCC1)N1CCC(CC1)OC1=CC(=C(C=C1)NC(CN1CCOCC1)=O)F | InChI=1S/C21H30FN3O3.2ClH/c22-19-14-18(28-17-6-8-25(9-7-17)16-2-1-3-16)4-5-20(19)23-21(26)15-24-10-12-27-13-11-24;;/h4-5,14,16-17H,1-3,6-13,15H2,(H,23,26);2*1H
